* HSPICE netlist generated with ICnet by 'bd68' on Thu Mar  3 2022 at 16:35:37

.subckt INV_HSKEW  X Y

*
* Globals.
*
.global GND VDD

        MN1 Y X GND GND n L=2 W=3
        MP1 Y X VDD VDD p L=2 W=12
.ends INV_HSKEW

